US04097522
A mixture of 20 g of 2-benzoyl-cyclohexanone, 21.6 g of ethyl pyruvate and 0.2 g of p-toluenesulfonic acid is heated at 150° for 15 hours. There is removed that fraction which distills at 1 mm (Hg up to 150°) and the residue is heated for 10 hours at 230° with 5 parts by weight of pyridine hydrochloride. After cooling the raw reaction products are poured in water and extracted with ether. The residue which is obtained after evaporation of the solvent is steam distilled. The part which does not distil is extracted with ether, the ether solution is dried well over sodium sulfate and to the dried solution there is added diethylamine until a clearly alkaline pH is reached. There thus precipitates a mixture of diethylamine salts from which, through fractional crystallization with hexane-ethyl acetate there is obtained the diathylamine salt of m-benzoyl-hydratropic acid m.p. 102°-104°. The free acid is obtained therefrom with the usual techniques.

reactant | 2-benzoyl-cyclohexanone | 20 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | ethyl pyruvate | 21.6 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | m-benzoyl-hydratropic acid | C(C1=CC=CC=C1)(=O)C=1C=C(C(C(=O)O)C)C=CC1 | C16H14O3
